US04711878
28 g of phosphorous oxychloride are added to a mixture of 76.2 g of N,N'-dibenzyloxycarbonyl-L-cystine (Chem. Ber., 65 , 1196 (1932)), 89 g of tert-butanol, 95 g of pyridine and 800 ml of dichloroethane at -3° to 2° C. under stirring. The mixture is stirred at the same temperature for 1 hour and at room temperature for 2 hours. The reaction mixture is poured into ice-water, and the organic layer is washed with sodium bicarbonate and water, successively. The organic layer is dried and then evaporated to remove the solvent. The residue is purified by silica gel column chromatography ( solvent; chloroform:isopropyl ether=3:7 ) and recrystallized from a mixture of isopropyl ether and n-hexane. 40.2 g of N,N'-dibenzyloxycarbonyl-L-cystine di-tert-butyl ester are obtained.

reactant | phosphorous oxychloride | 28 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N'-dibenzyloxycarbonyl-L-cystine | 76.2 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CSSC[C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1)C(=O)O | C22H24N2O8S2
reactant | tert-butanol | 89 g | C(C)(C)(C)O | C4H10O
reactant | dichloroethane | 800 ml | ClC(C)Cl | C2H4Cl2
reactant | pyridine | 95 g | N1=CC=CC=C1 | C5H5N
product | N,N'-dibenzyloxycarbonyl-L-cystine di-tert-butyl ester | 40.2 g | C(C)(C)(C)OC([C@H](CSSC[C@@H](C(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)=O | C30H40N2O8S2
